US05506351
2'-O-Methylguanosine
2,6-Diamino-9-(2-O-methyl-β-D-ribofuranosyl)purine (9.5 g) in 0.1M sodium phosphate buffer (200 ml, pH 7.4) and DMSO (25 ml) was treated with adenosine deaminase (Type II Sigma) at RT for 4 days. The resulting suspension was cooled and filtered and the resulting filter cake washed with H2O and dried to a white solid (4.0 g). The solid was recrystallized from hot H2O to yield 2.9 g of product. m.p. 236°-238° C. 1H NMR (DMSO-d6 ) δ 3.3 (s, 3, OCH3), 3.53 and 3.6 (ABX, 2, H-5'), 3.87 (m, 1, H-4'), 4.15 (m, 1, H-2'), 4.25 (m, 1, H-3'), 5.13 (t, 1, 5'-OH), 5.23 (d, 1, 3'-OH), 5.8 (d, 1, H-1'), 6.48 (br s, 2, NH2), 7.96 (s, 1, H-8) and 10.68 (br s, 1, NH). Anal. Calcd. for C11H15N5O5.1/2H2O: C, 43.14; H, 5.26; N, 22.86. Found: C, 43.59; H, 5.34; N, 23.04.

reactant | 2,6-Diamino-9-(2-O-methyl-β-D-ribofuranosyl)purine | 9.5 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OC)[C@H](O)[C@H](O1)CO)N | C11H16N6O4
reactant | adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
solvent | sodium phosphate | 0.1M, 200 ml, pH 7.4 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 2'-O-Methylguanosine | 2.9 g | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(=O)NC(N)=NC12 | C11H15N5O5
